US04888281
To a solution containing 30.12 g (100 mmol) o-nitrophenyl-β-D-galactoside in 1000 ml distilled water buffered at pH 6.8 with 0.5M phosphate buffer and maintained at 37° C. is added 10 mg of monoclonal antibodies prepared according to Example 6. The reaction mixture is gently agitated for 2.0 hours. The monoclonal antibodies are then recovered from the reaction mixture by ultrafiltration. The filtrate is then cooled to 10° C. and treated with 9.2 g (110 mmol) sodium bicarbonate. The D-galactose is recovered by extracting the filtrate with three 100 ml portions of diethyl ether. The ether portions are combined, washed once with 1.0N sodium bicarbonate, dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield D-galactose. The aqueous portion is then combined with the sodium bicarbonate wash and acidified to pH 3 by the addition of 5N hydrochloric acid. The acidified aqueous portion is then extracted three times with ether. The etheral extracts are combined, dried over magnesium sulfate, filtered and concentrated at reduced pressure to yield o-nitrophenol. The o-nitrophenol and D-galactose may be further purified by HPLC or by recrystallization.

reactant | o-nitrophenyl-β-D-galactoside | 100 mmol, 30.12 g | C1=CC=C(C(=C1)[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O)O)O | C12H15NO8
reactant | sodium bicarbonate | 110 mmol, 9.2 g | C([O-])(O)=O.[Na+]
product | D-galactose | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
